US07842703B2
Step 1: 8-Chloroisoquinoline
To a solution of 8-aminoisoquinoline (J. Med. Chem., 2005, 48, 744-52) (1 mmol) in concentrated hydrochloric acid was added a solution of sodium nitrite (1.2 mmol) in water. The diazotization was carried out at 0° C. The cold diazonium salt solution was added to a solution of cuprous chloride in concentrated hydrochloric acid at 0° C. The cold solution was warmed to room temperature and stirred at room temperature for 3 hours. After 3 hours, the solution was heated at 60° C. for 30 min. Reaction mixture was basified and extracted with diethyl ether. Ether was washed with cold concentrated sulfuric acid, brine. Ether was dried over anhydrous sodium sulfate and evaporated under vacuum. Crude residue was column purified to afford a pale yellow liquid.

reactant | 8-aminoisoquinoline | 1 mmol | NC=1C=CC=C2C=CN=CC12 | C9H8N2
reactant | sodium nitrite | 1.2 mmol | N(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 8-Chloroisoquinoline | ClC=1C=CC=C2C=CN=CC12 | C9H6ClN
